US05753652
At 0°, 6.4 ml (45.7 mmol) of triethylamine are added to a solution of 5 g (23.9 mmol) of (L)-valine tert-butyl ester, 2.91 g (21.7 mmol) of 2-(methoxyethoxy)-acetic acid and 3.55 g (21.7 mmol) of cyanophosphonic acid diethyl ester in 30 ml of DMF and the mixture is then stirred overnight at RT. The reaction mixture is diluted with methylene chloride, washed in succession with 10% citric acid, saturated sodium hydrogen carbonate solution and saturated sodium chloride solution and, after concentration by evaporation of the organic phase, yields 5.1 g of N-methoxyethoxyacetyl-(L)-valine tert-butyl ester, which is stirred for 1 h at RT in 22 ml of a (1:1) mixture of methylene chloride and TFA. Concentration by evaporation of the reaction solution yields the title compound in the form of a colourless oil. 1H-NMR (200 MHz, CDCl3): 10.0 (s, broad, 1H), 7.62 d, broad, 1H), 4.55 (m, 1H), 4.10 (s, 2H), 3.70 (m, 2H), 3.58 (m, 2H), 3.40 (s, 3H), 2.28 (m, 1H), 0.98 (d, J=7 Hz, 3H), 0.95 (d, J=7 Hz, 3H).

reactant | triethylamine | 45.7 mmol, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | (L)-valine tert-butyl ester | 23.9 mmol, 5 g | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | 2-(methoxyethoxy)-acetic acid | 21.7 mmol, 2.91 g | COCCOCC(=O)O | C5H10O4
reactant | cyanophosphonic acid diethyl ester | 21.7 mmol, 3.55 g | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-methoxyethoxyacetyl-(L)-valine tert-butyl ester | 5.1 g | C(C)(C)(C)OC([C@@H](NC(COCCOC)=O)C(C)C)=O | C14H27NO5
